US04610986
A mixture of 9-(1,1-ethylenedioxy)ethyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione (657 mg), chloroform (33 ml), carbon tetrachloride (13 ml) and water (26 ml) was stirred at room temperature, and bromine (530 mg) and azobisisobutyronitrile (130 mg) were added thereto, and the resulting mixture was stirred at the same temperature as above for 1 hour. From the reaction mixture, the organic phase was separated, washed with water, dried over anhydrous sodium sulfate and concentrated. The residue was crystallized from ether to give 7-bromo-9-(1,1-ethylenedioxy)ethyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione (576 mg). M.P., 173°-176° C.

reactant | 9-(1,1-ethylenedioxy)ethyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | 657 mg | C1OC2(C(C=CC=3C(C4=C(C=5CCC(CC5C=C4C(C23)=O)O)O)=O)CC)OC1 | C22H22O6
reactant | chloroform | 33 ml | C(Cl)(Cl)Cl | CHCl3
reactant | bromine | 530 mg | BrBr | Br2
reactant | azobisisobutyronitrile | 130 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | water | 26 ml | O | H2O
solvent | carbon tetrachloride | 13 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-bromo-9-(1,1-ethylenedioxy)ethyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | 576 mg | BrC1C=2C(=C3C(C=4C=CC(C5(C4C(C3=CC2CC(C1)O)=O)OCCO5)CC)=O)O | C22H21BrO6
